US07671074B2
N-(aminopyrrolidin-1-yl-methylene)-4-methylbenzene-sulfonamide (18)
The compound of Example 18 was prepared according to the accompanying synthesis procedure from 0.5 ml of N-[(3,5-dimethylpyrazol-1-yl)-iminomethyl]-4-methylbenzene-sulfonamide solution (0.2 M, acetonitrile) with 19 mg of methanesulfonic acid and 0.5 ml of pyrrolidine solution (1.0 M, acetonitrile) and filed in a substance databank. Calculated mol. wt. 267.35; found mol. wt. (M+H) 268.2; 534.9 (Dimer)

reactant | N-[(3,5-dimethylpyrazol-1-yl)-iminomethyl]-4-methylbenzene-sulfonamide | 0.2 M, 0.5 ml | CC1=NN(C(=C1)C)C(NS(=O)(=O)C1=CC=C(C=C1)C)=N | C13H16N4O2S
reactant | methanesulfonic acid | 19 mg | CS(=O)(=O)O | CH4O3S
reactant | pyrrolidine | 1.0 M, 0.5 ml | N1CCCC1 | C4H9N
product | N-(aminopyrrolidin-1-yl-methylene)-4-methylbenzene-sulfonamide | NC(=NS(=O)(=O)C1=CC=C(C=C1)C)N1CCCC1 | C12H17N3O2S
